US04551460
Preparation of (2-methyl-1H-imidazol-1-yl)butanenitrile
12.8 g of sodium hydroxide was dissolved in 12 ml of water and diluted with 150 ml of dimethylformamide containing 20.3 g of 2-methylimidazole. A solution of 50.0 g of 4-bromobutyronitrile in 100 ml of dimethylformamide was added slowly maintaining the temperature below 30° C. The resulting mixture was stirred overnight and was concentrated. The residue was taken up in 150 ml of brine and extracted with dichloromethane. The combined organic layers were dried over potassium carbonate and evaporated. The product was distilled. The early fractions were mostly 2-methylimidazole and were discarded. The main fraction 23.2 g, bp 160°-185° C./2.5 mm, was redistilled to give 14.7 g (31%) of (2-methyl-1H-imidazol-1-yl)-butanitrile, bp 140°-147° C./0.5 mm.

reactant | sodium hydroxide | 12.8 g | [OH-].[Na+]
reactant | 4-bromobutyronitrile | 50.0 g | BrCCCC#N | C4H6BrN
reactant | 2-methylimidazole | CC=1NC=CN1 | C4H6N2
solvent | water | 12 ml | O | H2O
solvent | dimethylformamide | 150 ml, 20.3 g | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (2-methyl-1H-imidazol-1-yl)butanenitrile | CC=1N(C=CN1)C(C#N)CC | C8H11N3
